US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-6-benzylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
Palladium(II) acetate (15 mg) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (130 mg) were added to toluene (20 ml) at room temperature, and the mixture was stirred for 5 min. under a nitrogen atmosphere. To the reaction mixture were added 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (1.0 g) and benzylamine (0.33 ml) at room temperature, and the mixture was stirred for 10 min under a nitrogen atmosphere. To the reaction mixture was further added sodium tert-butoxide (270 mg) at room temperature, and heated under reflux under a nitrogen atmosphere for 4 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=2:1) to give the title compound (1 g).

reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 130 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 1.0 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C25H18BrNO5
reactant | benzylamine | 0.33 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 270 mg | CC(C)([O-])C.[Na+]
catalyst | Palladium(II) acetate | 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-benzylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 1 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)NCC1=CC=CC=C1)=O)CC1=CC2=C(OCO2)C=C1 | C32H26N2O5
